US05817678
Step G: Preparation of 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-yl)acetylamino]-piperidine
1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-amino piperidine (134 mg, 0.520 mmol), [1-(4-cyanobenzyl)-1H-imidazol-5-yl]acetic acid (147 mg, 0.520 mmol), HOBT (73,8 mg, 0.546 mmol), EDC (104 mg, 0.546 mmol), and Et3N (65.2 uL, 0.468 mmol) were dissolved in DMF (4 mL) and stirred at ambient temperature overnight. The solution was concentrated under reduced pressure and the residue was chromatographed (silica gel, 0.5-2% MeOH/CH2Cl2 with NH4OH) to give the title compound. 1H NMR (CDCl3) d 7.64 (d, 2H, J=8 Hz), 7.52 (s, 1H), 7.19 (d, 2H, J=8 Hz), 6.90-7.05 (m, 1H), 6.98 (s, 1H), 5.22-5.35 (m, 2H), 3.78-3.91 (m, 2H), 3.69 (s, 3H), 3,57-3.64 (m, 1H), 3.45-3.56 (m, 1H), 3.34 (s, 2H), 3.05-3.30 (m, 1H), 2.55-2.68 (m, 1H), 2.05-2.13 (m, 1H), 1.55-1.70 (m, 1H), 1.42 (s, 9H). FAB MS 482 (M+1)

reactant | 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-amino piperidine | 0.520 mmol, 134 mg | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)N)C(=O)OC | C12H22N2O4
reactant | [1-(4-cyanobenzyl)-1H-imidazol-5-yl]acetic acid | 0.520 mmol, 147 mg | C(#N)C1=CC=C(CN2C=NC=C2CC(=O)O)C=C1 | C13H11N3O2
reactant | HOBT | 0.546 mmol, 73,8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.546 mmol, 104 mg
reactant | Et3N | 0.468 mmol, 65.2 uL | CCN(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-yl)acetylamino]-piperidine | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)NC(CC1=CN=CN1CC1=CC=C(C=C1)C#N)=O)C(=O)OC | C25H31N5O5
